US07129239B2
Preparation of Intermediate N4-(4-Chlorophenyl)-6-pyrrolidin-1-yl-pyrimidine-4,5-diamine (I-(17A-1)a)
6-Chloro-N4-(4-chlorophenyl)-pyrimidine-4,5-diamine I-(1A-1)a (114 mg, 0.45 mmol) and pyrrolidine (1 ml, excess) were combined and heated with stirring at 100° C. for 2 hours. The reaction mixture was diluted with saturated NaHCO3 solution and extracted with ethyl acetate. The organic layers were combined, dried (Na2SO4), filtered, and evaporated to dryness to yield the desired compound I-(17A-1)a (131 mg, quantitative) as an orange-brown solid: +ESI MS (M+1) 290.3; 1H NMR (500 MHz, CD3OD) δ 7.85 (s, 1H), 7.45 (d, J=8.8 Hz, 2H), 7.26 (d, J=8.8 Hz, 2H), 3.63 (m, 4H), 1.96 (m, 4H).

reactant | 6-Chloro-N4-(4-chlorophenyl)-pyrimidine-4,5-diamine | ClC1=C(C(=NC=N1)NC1=CC=C(C=C1)Cl)N | C10H8Cl2N4
reactant | pyrrolidine | 1 ml | N1CCCC1 | C4H9N
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | N4-(4-Chlorophenyl)-6-pyrrolidin-1-yl-pyrimidine-4,5-diamine | ClC1=CC=C(C=C1)NC1=NC=NC(=C1N)N1CCCC1 | C14H16ClN5
